US04268673
2,2-Dimethyl-7-methoxy-3-(N-methyl-p-toluenesulphonamido)-1-[2-(tetrahydro-2-pyranyloxy)ethylidene]-1,2,3,4-tetrahydronaphthalene
To a mechanically stirred suspension of 126 g of 2,2-dimethyl-1-(2-hydroxyethylidene)-7-methoxy-3-(N-methyl-p-toluenesulphonamido)-1,2,3,4-tetrahydronaphthalene in 550 ml of 2,3-dihydropyran there is added 5 ml of concentrated hydrochloric acid when under the development of heat a clear solution is being formed. After the mixture has been kept at 25° C. for one hour 400 ml of ether is added followed by an aqueous solution of potassium carbonate in water. The mixture is shaken and the organic layer is dried and evaporated, respectively. The residue is treated with petroleum ether (boiling range 40°-60° C.) which results in the formation of a clear solution covering a semi crystalline layer. From the supernatant a first crop of crystalline product can be secured. The rest can be gathered by dissolving the semi solid mass in boiling ether and cooling the ethereal solution whereupon crystallization of the product takes place. The product melts at 128°-130° C. Yield 80%.

reactant | 2,2-dimethyl-1-(2-hydroxyethylidene)-7-methoxy-3-(N-methyl-p-toluenesulphonamido)-1,2,3,4-tetrahydronaphthalene | 126 g | CC1(C(C2=CC(=CC=C2CC1N(S(=O)(=O)C1=CC=C(C=C1)C)C)OC)=CCO)C | C23H29NO4S
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2,3-dihydropyran | 550 ml | O1CCCC=C1 | C5H8O
solvent | water | O | H2O
product | 2,2-Dimethyl-7-methoxy-3-(N-methyl-p-toluenesulphonamido)-1-[2-(tetrahydro-2-pyranyloxy)ethylidene]-1,2,3,4-tetrahydronaphthalene | Yield 80% | CC1(C(C2=CC(=CC=C2CC1N(S(=O)(=O)C1=CC=C(C=C1)C)C)OC)=CCOC1OCCCC1)C | C28H37NO5S
